US07329685B2
Phenylmethyl 3-fluoro-4-nitrobenzoate
A suspension of 3-fluoro-4-nitroberizoic acid (33.0 g) in anhydrous DMF (300 ml) was cooled to 0° C., treated with sodium bicarbonate (13.5 g) and stirred for 30 min. The mixture was treated dropwise with benzyl bromide (19.0 ml) stirred for a further 30 min then allowed to warm to room temperature while stirring overnight (18 h). The resulting orange solution was evaporated under reduced pressure and the residue partitioned between ethyl acetate (1200 ml) and saturated aqueous sodium carbonate (1600 ml). The organic layer was split into 2×600 ml portions and each was washed with water (2×500 ml), brine (200 ml), dried over anhydrous magnesium sulfate then filtered. The filtrates were combined and evaporated under reduced pressure to give the title compound (38.2 g) as an orange oil which crystallised on standing overnight.

reactant | 3-fluoro-4-nitroberizoic acid | 33.0 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | sodium bicarbonate | 13.5 g | C([O-])(O)=O.[Na+]
reactant | benzyl bromide | 19.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | Phenylmethyl 3-fluoro-4-nitrobenzoate | 38.2 g | FC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1[N+](=O)[O-] | C14H10FNO4
